US04021487
m-Nitroacetophenone (82.3 g., 0.50 mole), water containing 0.85 mole of phosphoric acid (300 ml.), and 5% palladium on carbon (1.5 g.) were charged and hydrogenated as in Example II. The resulting hydrogenate was neutralized with 45% potassium hydroxide (1.70 mole) and stirred in a cooling bath until precipitation of solids was complete. m-Amino-α-methylbenzyl alcohol was obtained in 86% yield and contained 97.8% pure product with 2.2% m-ethylaniline.

reactant | m-Nitroacetophenone | 0.50 mole, 82.3 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C)=O | C8H7NO3
reactant | water | 0.85 mole | O | H2O
reactant | potassium hydroxide | 1.70 mole | [OH-].[K+]
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | phosphoric acid | 300 ml | P(O)(O)(O)=O | H3O4P
product | m-Amino-α-methylbenzyl alcohol | 86% yield | NC=1C=C(C(C)O)C=CC1 | C8H11NO
